US05362878
N-(4-bromoisoquinolin-5-yl)-2-hexylthiodecanamide
5-Amino-4-bromoisoquinoline (prepared according to the process described by Gordon et al., J. Het. Chem., 4, 410 (1967)) was coupled with 2-hexylthiodecanoic acid (prepared by the procedures described in Examples 1 and 3) using the procedure described in Example 25 to give the title compound.

reactant | 5-Amino-4-bromoisoquinoline | NC1=C2C(=CN=CC2=CC=C1)Br | C9H7BrN2
reactant | 2-hexylthiodecanoic acid | C(CCCCC)C(C(=S)O)CCCCCCCC | C16H32OS
product | N-(4-bromoisoquinolin-5-yl)-2-hexylthiodecanamide | BrC1=CN=CC2=CC=CC(=C12)NC(C(CCCCCCCC)CCCCCC)=S | C25H37BrN2S
